data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_77542_2,[C:1](=[C:7]([C:5]([C:3]([H:18])([H:19])[H:20])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]\[H:10])[C:6](=[O:9])[H:11])[H:14])([H:12])[H:13]>>[C:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]\[H:10])(/[C:7](=[C:5](\[C:3]([H:18])([H:19])[H:20])[C:6](=[O:9])[H:11])[H:14])([H:12])[H:13],54.80773250002045
MR_79390_2,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:6]([C:4]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[O:8][H:9]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:5]([H:20])([H:21])[H:22])([H:10])[H:11])([C:4]([H:15])([H:16])[H:17])[C:7]([H:9])([H:18])[H:19])=[O:8],71.90396999998072
MR_115718_0,[C:1]([N:2]([C:3](=[C:4]([H:12])[H:13])[H:8])/[N:5]=[N:6]/[H:7])([H:9])([H:10])[H:11]>>[C:1](/[N:2]=[C:3](/[C:4](/[N:5]=[N:6]/[H:7])([H:12])[H:13])[H:8])([H:9])([H:10])[H:11],40.82765999996852
MR_577007_1,[C:1]([C:3]([C:4]([N:6]([H:14])[H:15])/[C:7](=[C:2](\[N:5]([H:12])[H:13])[O:8][H:10])[H:16])[O:9][H:11])([H:17])([H:18])[H:19]>>[C:1]([C@:3]1([O:9][H:11])[C@:2]([N:5]([H:12])[H:13])([O:8][H:10])[C:7]([H:16])=[C:4]1[N:6]([H:14])[H:15])([H:17])([H:18])[H:19],36.603957500002906
MR_706871_2,[C:1](\[C:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([N:5]([H:11])[H:12])[N:8]([H:13])[H:14])(=[N:6]/[H:10])[H:9]>>[C:1](/[C:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])=[N:8]/[H:14])([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])[H:9],42.25647749999936
MR_366682_1,[C:1]([N:3]([C:2]([H:11])([H:12])[H:13])/[N:5]=[N:6]/[O:4][H:7])([H:8])([H:9])[H:10]>>[C:1](/[N:3]=[N:5]\[N:6]([C:2]([H:11])([H:12])[H:13])[O:4][H:7])([H:8])([H:9])[H:10],68.98986000002594
MR_479771_2,[C:1](/[C:4](=[C:3](\[N:6]([C:2](=[O:5])[H:8])[H:7])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[C:3](\[O:5]/[C:2](=[N:6]/[H:7])[H:8])[H:9])[H:10])([H:11])([H:12])[H:13],67.81141500000501
MR_537058_0,[C@@:1]1([N:5]([H:9])[H:10])([O:7][C:3]([H:13])([H:14])[H:15])[C:2]([H:11])([H:12])[O:6][N:4]1[H:8]>>[C@:1]1([N:4]([O:7][C:3]([H:13])([H:14])[H:15])[H:8])([N:5]([H:9])[H:10])[C:2]([H:11])([H:12])[O:6]1,64.30431750001361
MR_544866_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:6](\[N:4]([H:12])[H:13])[H:15])([C:5](=[O:8])[H:14])=[N:7]\[H:11]>>[C:1](=[C:2]([N:3]([H:9])[H:10])/[C:6](=[N:4]/[H:13])[H:15])(\[C:5](=[O:8])[H:14])[N:7]([H:11])[H:12],5.087769999995544
MR_527413_1,[C:1](/[C:5](=[C:3](\[N:2]([O:6][C:4](=[O:8])[H:11])[H:10])[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@@:5]([C@@:3]1([O:7][H:9])[N:2]([H:10])[O:6]1)([C:4](=[O:8])[H:11])[H:12])([H:13])([H:14])[H:15],55.87511000000077
MR_323059_0,[C:1]([O:5][N:3]([H:7])[H:8])(/[N:6]=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:1](=[N:6][C:4]([C:2]([H:12])([H:13])[H:14])([O:5][N:3]([H:7])[H:8])[H:11])([H:9])[H:10],50.32738249995376
MR_102345_0,[C:1](/[N:7]=[C:2](\[C:3]([N:4]([H:9])[H:10])=[C:5]([H:14])[H:15])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:2]([O:6][H:8])=[C:3]([N:4]([H:9])[H:10])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],64.2327824999802
MR_278241_2,[C:1]1([O:6][H:10])([H:12])[C:2]([O:7][H:11])([H:13])[C:3]1([C:4]([O:5][H:9])=[O:8])[H:14]>>[C:1](/[C:3](=[C:2](/[O:7][H:11])[H:13])[H:14])([C:4]([O:5][H:9])=[O:8])([O:6][H:10])[H:12],65.66850249999362
MR_262620_0,[C@:1]([C:2](/[C:5](=[C:7](/[C:4]([H:20])([H:21])[H:22])[H:16])[O:9][H:10])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])([O:8][N:6]([H:12])[H:13])[H:11]>>[C@:1]1([C:3]([H:17])([H:18])[H:19])([H:11])[C:2]([H:14])([H:15])[C@:5]1([C@:7]([C:4]([H:20])([H:21])[H:22])([O:8][N:6]([H:12])[H:13])[H:16])[O:9][H:10],70.73870249996219
MR_246969_0,[C:1](/[N:7]=[C:2]([C:4](=[C:5](\[N:3]([H:9])[H:10])[H:12])\[H:11])/[O:6][H:8])([H:13])([H:14])[H:15]>>[C:1]([N:7]1[C:2]([O:6][H:8])=[C:4]([H:11])[C:5]1([N:3]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],48.60175749995889
MR_701648_1,[N:1](=[N:7]/[C:4]([C:2]([O:5][O:6][H:9])=[O:8])([N:3]([H:11])[H:12])[H:13])\[H:10]>>[N:1]([C:2]([O:5][O:6][H:9])=[O:8])(/[N:7]=[C:4](/[N:3]([H:11])[H:12])[H:13])[H:10],46.6621550000049
MR_235496_0,[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[N:3]([H:9])[H:10])([C:5](=[O:7])[H:13])[H:8]>>[N:1](=[C:2](\[N:4]([H:11])[H:12])[N:6]([N:3]([H:9])[H:10])[C:5](=[O:7])[H:13])\[H:8],39.1497250000316
MR_55448_0,[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[O:7])[N:6]([H:8])[H:9]>>[C:1]1([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])[C@:5]([C:4]([H:16])([H:17])[H:18])([N:6]([H:8])[H:9])[O:7]1,67.0803774999959
MR_91045_1,[C:1]([C:3](/[C:2]([N:5]=[C:4]([H:12])[H:13])=[N:6]\[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([N:5]=[C:4]([H:12])[H:13])/[C:2](=[N:6]/[H:8])[O:7]1)([H:9])([H:10])[H:11],68.43452250000126
MR_416594_1,[N:1](/[C:4](=[C:2](\[N:3]([H:10])[H:11])[O:7][H:8])[H:12])([C:5](=[C:6]([H:14])[H:15])[H:13])[H:9]>>[N:1]1([H:9])[C:4](/[C:2](=[N:3]/[H:10])[O:7][H:8])([H:12])[C:5]1([C:6]([H:11])([H:14])[H:15])[H:13],38.6069375000109
